Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 "A lot has happened...I don't feel safe alone" 
Worsening Depression and PTSD in context of multiple social 
stressors 
 
Major Surgical or Invasive Procedure:
NA
 
History of Present Illness:
Per Dr. ___ on ___: "Patient reports, "I've 
had a lot happen in the last ___ years." She notes that in the 
last couple of days she had really horrible breakup. In addition 
to this, she reports that her father died suddenly in ___, and her brother died ___, she had not 
had contact with her brother in many years, because he sexually 
abused her for years when she was younger (ages ___ but she 
did speak to him on his deathbed. She also reports a number of 
traumatic events surrounding an illness in early ___. Patient 
reports that she had abdominal pain, nausea and vomiting, which 
was eventually found to be due to a "gall bladder problem" 
including a completely blocked duct. She reports that she 
required treatment with radiation to open up the blocked duct, 
and that this treatment was urgent. She was about 6 weeks 
pregnant at the time, and apparently it was recommended that she 
terminate the pregnancy in order to undergo treatment. Now she 
states that she is not sure that she really wanted to do that 
and has mixed feelings and regrets about her choice. The 
boyfriend that she recently broke up with was the father of that 
child. She reports that their relationship was ___ and that 
they broke up and got back together several times, and that he 
was not always there for her. She describes the volatility of 
their relationship as "like a cycle of repeated grieving." The 
fight that led to their break up, she felt reminded of her 
father who she says was was verbally abusive, and in the moment 
she cut her hair impulsively. Since that time she has felt out 
of control, sad, and has been "wishing that I could just turn my 
brain off."

Patient reports several months of depression, which for her is 
characterized by "perpetually grouchy mood." She describes 
feeling irritable, snippy and angry, but also often tearful, and 
describes significant anhedonia, "I'm either crying, or grumpy 
or numb." She also describes intermittent sleep disturbance, low 
appetite and significant weight loss (has not weighed herself 
but. can no longer wear her pants without a belt) as well as 
rumination on feelings of guilt and hopelessness, low energy, 
and problems with memory that she reports are chronic but have 
worsened lately. In the context of all of this she has had 
recently worsening suicidal ideation, stating "I was feeling 
really empty. I just felt like I was unhinging and like I was 
shattered. It was too much and I just wanted to stop thinking, I 
just wanted to fall asleep and stay asleep forever." When asked 
about plans she initially says that she tries not to think about 
it, but then discloses that she has thought about taking 
sleeping pills and walking in front of a train. She reports that 
her mother is the reason that she would not go through with it, 
but when asked if she feels she could be safe if she left the 
hospital, she states, "I'm afraid to be alone because I don't 
like the way the thoughts spiral, I think I could maybe be safe 
but I can't be alone."
 
She also reports feeling frequently triggered by any mention of 
things that were traumatic for her, including mentions of 
abortion and watching a TV show that included sexual abuse in 
the plotline. In those moments she feels tearful and out of 
control. She denies flashbacks, but reports that her sleep has 
been disturbed by a series of nightmares: dreams of her mother 
dying, herself dying, of miscarriage and of giving birth. 

Patient denies homicidal ideation and any current or past 
symptoms of mania or psychosis.

Collateral from mother (who works at a ___ at the ___ in 
___ At bedside, interviewed separately from patient.: 
Thinks that her daughter has been dealing more with the trauma 
of her past abuse in the last year since her brother died, but 
that before that she couldn't talk about it at all and couldn't 
stand to hear his name mentioned. She has seemed intermittently 
depressed and she is aware that she sometimes thinks about 
suicide, but also states that she thinks that she could ask for 
help if those feelings got out of control. Has seemed 
intermittently depressed and tearful over the last several 
months, but is unsure how much of that is depression versus just 
dealing with all of the losses that she's had. Initially states 
that she thinks that she would be OK with an PHP level of care, 
but when told that her daughter said that she wasn't sure that 
she could be safe as an outpatient, she says, "well she knows 
what to say if she didn't want to be in the hospital, so if 
that's what she thinks she needs than that's what she needs. I'm 
glad she was able to tell you."

On admission interview to Deac 4: 
Ms. ___ confirms much of the above documentation.  She adds 
several points: 
- last week and now she feels that she is in a "cycle of grief"
- talks about the most recent ex-boyfriend in depth to explain 
why she is here
- alerts that an ex-boyfriend, not sure if the same ex, is 
currently hospitalized inpatient psych as well for aggression of 
some sort, gives name so that staff know not to admit that 
patient should that somehow happen by chance. 
- 100mg modafinil was helpful for her narcolepsy, but 
neurologist had always prescribed 200mg 
- identifies as Jewish
- Denies AVH or SI while on unit but would not feel safe alone 
- Has lived in ___ since ___ but has not been in therapy 
since last year, or possibly longer
- Last drink was five days ago and she had not been binge 
drinking prior to that 
- Had 3 blackouts with alcohol this past year because "after my 
surgery I didn't know my limits" and her ex-boyfriend found this 
very worrisome
- Brother had some kind of chronic liver condition and took 
medications for it until ___ years before he died
- PCP is ___ at ___ 

___ in Emergency Department: No significant events or 
restraints needed. 
 
Past Medical History:
PAST MEDICAL HISTORY:
Nacrcolepy, gall bladder issues as in HPI

Medications: Occasional Ibuprofen, Melatonin ___, Mirena IUD

Allergies: NKDA, per Dr. ___ "red bell peppers
give her OAS"

FORENSIC HISTORY:
Arrests:Denies
Convictions and jail terms: Denies
Current status (pending charges, probation, parole):Denies

Past psychiatric history:
Per Dr. ___ ___ Note: 
PTSD, depression
Hospitalizations: never
Current treaters and treatment: no treatment now, past 
outpatient therapy
Medication and ECT trials: past antidepressant trail, patient 
reports she used to take celexa, (mom says ___ stopped 
because she didn't like the idea of taking medication, has Rx 
for Modafinil for narcolepsy, but hasn't taken in months because 
it make her anxious
Self-injury: denies SIB and suicide attempts 
Harm to others: denies
Access to weapons: denies
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: 
"Patient is adopted and they have limited information about her 
birth family, believe that her birth father was an alcoholic, 
otherwise not aware of any psychiatric history. Adoptive father 
with depression, no known family history of suicide."
 
Physical Exam:
Physical Examination:
General- Hispanic young woman in NAD 
Skin- small plumeria tattoo on L shoulder 
HEENT- straight teeth, good dentition 
Lungs- CTAB, good expansion bilaterally
CV- RRR, no m/r/g
Abdomen: BSP, soft, nontender, nondistended, NTTP
Neuro-
CN: pupils symmetry and responsiveness to light and 
accommodation: pupils symmetric and responsive to light and 
accommodation
     visual fields: full
     EOM: intact
     facial sensation to light touch in all 3 divisions: intact
     facial symmetry on eye closure and smile: intact and no 
asymmetry
     hearing bilaterally to rubbing fingers: intact
     phonation: normal
     head turning and shoulder shrug: normal bilaterally
     tongue: midline, no atrophy
Motor:
       Delt:C5  Bic:C6   Tri:C7   Wr ext:C6   Fing ext:C7
Left    WNL     WNL     WNL          WNL          WNL      
Right   WNL     WNL     WNL          WNL          WNL         
        IP:   Quad:    Hamst:   Dorsiflex:   ___:   Pl.flex
Left    WNL     WNL     WNL     WNL          WNL     WNL
Right   WNL     WNL      WNL     WNL          WNL     WNL 
*Deep tendon Reflexes: Not elicited due to tension 
 
Sensation: WNL 
Coordination: No concerns as demonstrated by her ability to sign 
name legibly and on lines of the CV  Gait/Romberg: WNL

Neuropsychiatric Examination:
  *Appearance: young Hispanic woman with dark hair, brown eyes, 
wearing hospital gown, hair back and up in a bun 
  Behavior: cooperative, pleasant 
  *Mood and Affect: "cycle of grief"/calm
  *Thought process: linear, goal-directed toward getting mental 
health providers, no LOA 
  *Thought Content: Denies SI on unit, Denies AVH
  *Judgment and Insight: limited/limited 
  Cognition:
    *Attention: attends to interview MOYB ___
     *orientation: Self, situation, location, month, date, year, 
President
    *Memory: ___ registration, ___ recall
    *Fund of knowledge: recalls recent and previous two 
presidents 
    Calculations: $2.25 = 9 quarters
    Abstraction: train/bicycle = transporation
    *Speech: normal rate, rhythm, slightly soft volume
    *Language: fluent ___ with no paraphasic errors 
 
Pertinent Results:
___ 05:17PM BLOOD WBC-6.1 RBC-4.27 Hgb-12.7 Hct-37.8 MCV-89 
MCH-29.7 MCHC-33.6 RDW-13.9 RDWSD-44.6 Plt ___
___ 05:17PM BLOOD Neuts-61.6 ___ Monos-6.3 Eos-1.5 
Baso-0.8 Im ___ AbsNeut-3.74 AbsLymp-1.79 AbsMono-0.38 
AbsEos-0.09 AbsBaso-0.05
___ 05:17PM BLOOD Plt ___
___ 05:17PM BLOOD Glucose-86 UreaN-16 Creat-0.7 Na-137 
K-4.6 Cl-99 HCO3-26 AnGap-12
___ 06:24AM BLOOD Cholest-171
___ 06:24AM BLOOD %HbA1c-4.8 eAG-91
___ 06:24AM BLOOD Triglyc-53 HDL-71 CHOL/HD-2.4 LDLcalc-89
___ 06:24AM BLOOD TSH-1.0
___ 05:17PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Depression/Irritability/PTSD
The patient was started on Prazosin 1mg for nightmares.  Due to 
low blood pressures and questionable effectiveness, this 
medication was stopped toward the end of her admission.  Team 
and patient felt this was overall safer as her blood pressures 
tend to run lower.  Notably, she was having what she described 
as "weird" dreams; only one dream she considered a "nightmare" 
while here (and was not on the prazosin at the time).  

On ___ she described to social worker that she felt 
everything hit her at once and was more amenable to trying 
medications to help her sleep better as she was sleeping poorly, 
being awake from three am until 6am.  Seroquel was started for 
this purpose and titrated up to a dose of 50 mg.  Team 
instructed her that she will likely be on this for the 
short-term future and did check baseline cholesterol/lipid panel 
which were within normal limits. 

After much consideration of symptoms (particularly the 
irritability she described prior to coming to the ED), 
lamotrigine was started for mood stability.  Although she had 
not had a documented manic episode, her level of irritability 
before coming inpatient was concerning enough to feel there was 
a chance she may be in a mixed state.  Lamotrigine was initiated 
on the night of ___.  Risks/benefits were discussed with her 
and her mother in depth.  She was warned to look out for any 
rash.  She was also instructed to call her psychiatrist if she 
missed a dose as this could increase the chance of having ___ 
___.  She was advised of the warning signs that she 
may be having ___.  She was also counseled 
extensively to not miss ___ dose of this medication and if so to 
contact her outpatient psychiatrists.  

Lamotrigine 25mg was initiated on ___ next dose increase to 
50mg should be on ___ (two weeks from start date).

3. SUBSTANCE USE DISORDERS:
#) The patient had no history of substance use disorders, but 
did describe what sounded like a few binge drinking episodes 
that had resulted in blackouts this year.  The patient was 
counseled on alcohol use disorder.  For this reason, we highly 
discourage the use of benzodiazepines in this patient as alcohol 
use does not seem predictable nor entirely to have ceased. She 
was also counseled about the dangers of alcohol and how it would 
not be helpful to her treatment right now.  

4. MEDICAL
#) Narcolepsy: The patient has not been on modafinil since she 
stopped going to school.  She finds that she does not need it at 
the moment.  Last sleep study was in ___ and has a relationship 
with a neurologist in ___ of ___, ___.  

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  ___ 
often attended these groups that focused on teaching patients 
various coping skills.  She was pleasant in the milieu and often 
seen socializing with other patients, talking to nursing 
students, journaling, and was a positive presence in groups.  
She felt that she learned a great deal from groups.  For 
instance, she was able to review a worksheet she had completed 
in group on ___ to help her cope when she felt upset 
over the weekend.  Team suggested that she make copies of this 
if it was that helpful and place it in places such as her 
backpack, room, etc.  She is very open to learning new coping 
skills and was actively utilizing them while on the unit. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mother, ___ was involved and always reachable via phone. 
She visited the patient once as she works in ___, ___ on 
___ while on the inpatient unit.  She was a strong advocate 
for inpatient team starting ___ paperwork which team did though 
strongly reminded that outpatient providers would need to 
continue following this paperwork in order for it to be 
effective. ___ received a copy of what the inpatient team 
was able to completed while she was here on the unit.  Team 
communicated with mother ___ re: medication choices, 
discharge information, and coordination of outpatient providers. 


INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Seroquel, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
untreated depression, feeling unsafe if left alone, multiple 
social stressors, lack of outpatient providers.  Her static 
factors noted at that time include trauma history, recent losses 
of family members, young age.   The modifiable risk factors were 
also addressed at that time.  ***Lack of coping skills, lack of 
self-compassion, lack of self-awareness were addressed via 
group, individual, and milieu therapy.  Poor sleep was addressed 
by prescribing Seroquel and Prazosin (for nightmares).  Mood 
instability and depression were addressed by starting 
lamotrigine and group therapy.  Lack out of outpatient providers 
was addressed by linking the patient up with a PHP as well as 
outpatient providers through the ___ system (where PCP 
is ___.  Finally, the patient is being discharged with many 
protective risk factors,  including involved and supportive 
parent, supportive friends, future-oriented, lack of suicidal 
ideation, employment, stable housing, newly learned coping 
skills that have already been effective, help-seeking nature, 
improved self-advocacy, pet in the home.  Based on the totality 
of our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400 mg PO Frequency is Unknown 
2. melatonin 3 mg oral QHS insomnia 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO QHS 
Do not miss ANY doses of this med. If you do, contact your 
doctor 
RX *lamotrigine 25 mg 1 tablet(s) by mouth every evening Disp 
#*10 Tablet Refills:*0 
2.  QUEtiapine Fumarate 50 mg PO QHS 
RX *quetiapine 50 mg 1 tablet(s) by mouth every night at bedtime 
Disp #*14 Tablet Refills:*0 
3.  melatonin 3 mg oral QHS insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, Severe, Recurrent; PTSD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___